US08115019B2
Synthesis of (E)-1-(2-ethyl-6-phenyl-dihydro-2H-pyran-3(4H)-ylidene)-ethyl trifluoromethanesulfonate
In dichloromethane (3.0 mL) were dissolved 1-phenylhex-4-yn-1-ol (0.28 mmol) and propionaldehyde (0.34 mmol) and the solution was cooled to −78° C. before the addition of trimethylsilyltriflate (TMSOTf) (0.86 mmol) thereto. At the same temperature, the reaction solution was stirred for 1 hour, and then slowly heated to room temperature over 3 hours. Stirring was further conducted at room temperature for an additional one to two hours in the reaction solution. After the addition of an aqueous NaHCO3 solution, the reaction solution was diluted with diethylether. The organic layer was washed with water and brine, dried over MgSO4, filtered and concentrated. The purification of the concentrate through column chromatography afforded the title compound (Yield 77%).

reactant | 1-phenylhex-4-yn-1-ol | 0.28 mmol | C1(=CC=CC=C1)C(CCC#CC)O | C12H14O
reactant | propionaldehyde | 0.34 mmol | C(CC)=O | C3H6O
reactant | trimethylsilyltriflate | 0.86 mmol | C[Si](C)(C)OS(=O)(=O)C(F)(F)F | C4H9F3O3SSi
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | dichloromethane | 3.0 mL | ClCCl | CH2Cl2
solvent | diethylether | C(C)OCC | C4H10O
product | (E)-1-(2-ethyl-6-phenyl-dihydro-2H-pyran-3(4H)-ylidene)-ethyl trifluoromethanesulfonate | Yield 77% | FC(S(=O)(=O)O/C(/C)=C\1/C(OC(CC1)C1=CC=CC=C1)CC)(F)F | C16H19F3O4S
